US04211550
3-ethoxycarbonyl-2-ethyl-1-(p-tolylcarbamoyl)-isothiourea (Compound 72)
The procedure described in Example 2 was repeated, except that 1.48 g of ethyl thioallophanate were used in place of the methyl thioallophanate, 1.3 g of ethyl bromide were in place of the methyl iodide and 1.33 g of p-tolyl isocyanate were used in place of the 2,4-dichlorophenyl isocyanate. 2.5 g (yield 81%) of the desired compound were obtained in the form of colourless prisms having a melting point of 110°-112° C.

reactant | ethyl thioallophanate | 1.48 g | C(NC(=O)N)(=S)OCC | C4H8N2O2S
reactant | methyl thioallophanate | C(NC(=O)N)(=S)OC | C3H6N2O2S
reactant | ethyl bromide | 1.3 g | C(C)Br | C2H5Br
reactant | methyl iodide | CI | CH3I
reactant | p-tolyl isocyanate | 1.33 g | C1(=CC=C(C=C1)N=C=O)C | C8H7NO
reactant | 2,4-dichlorophenyl isocyanate | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
product | 3-ethoxycarbonyl-2-ethyl-1-(p-tolylcarbamoyl)-isothiourea | 2.5 g, yield 81% | C(C)OC(=O)N=C(NC(NC1=CC=C(C=C1)C)=O)SCC | C14H19N3O3S
